US08629157B2
Step 1: Synthesis of (S)-1-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester
To a stirred solution of (S)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester (740 mg, 4 mmol) in N,N-dimethylformamide (5 mL) sodium hydride (180 mg of 60% dispersion in mineral oil, 4.5 mmol) is added at room temperature. After 10 minutes, 3-chloro-2-fluoro-5-trifluoromethylpyridine (1 mL, 8 mmol) is added and the suspension stirred at room temperature. After 3 h the reaction mixture is treated with saturated ammonium chloride solution (150 mL), extracted with dichloromethane (2×100 mL). Combined extracts washed with brine (2×50 mL), water, dried over anhydrous Na2SO4 and solvent removed in vacuo. The crude is purified by chromatography over silica gel eluting with hexanes/ethyl acetate to give the title compound, ESI m/z 365 [M+H]+.

reactant | (S)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 4 mmol, 740 mg | C(C)(C)(C)OC(=O)[C@H]1NC(CC1)=O | C9H15NO3
reactant | N,N-dimethylformamide | 4.5 mmol, 5 mL, 180 mg | CN(C=O)C | C3H7NO
reactant | 3-chloro-2-fluoro-5-trifluoromethylpyridine | 8 mmol, 1 mL | ClC=1C(=NC=C(C1)C(F)(F)F)F | C6H2ClF4N
solvent | ammonium chloride | 150 mL | [Cl-].[NH4+]
product | (S)-1-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)[C@H]1N(C(CC1)=O)C1=NC=C(C=C1Cl)C(F)(F)F | C15H16ClF3N2O3
